*** SPICE deck for cell hw2-layout{lay} from library hw2
*** Created on Thu Oct 19, 2023 22:51:17
*** Last revised on Fri Oct 20, 2023 00:16:20
*** Written on Fri Oct 20, 2023 00:17:01 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** TOP LEVEL CELL: hw2-layout{lay}
Mnmos@0 net@6 C gnd gnd N L=0.35U W=1.4U AS=4.885P AD=1.593P PS=12.6U PD=5.075U
Mnmos@1 net@4 net@6 F gnd N L=0.35U W=1.4U AS=1.286P AD=0.482P PS=3.937U PD=2.363U
Mnmos@2 gnd D net@4 gnd N L=0.35U W=1.4U AS=0.482P AD=4.885P PS=2.363U PD=12.6U
Mnmos@3 net@0 net@43 gnd gnd N L=0.35U W=1.4U AS=4.885P AD=0.482P PS=12.6U PD=2.363U
Mnmos@4 F A net@0 gnd N L=0.35U W=1.4U AS=0.482P AD=1.286P PS=2.363U PD=3.937U
Mnmos@5 net@43 B gnd gnd N L=0.35U W=1.4U AS=4.885P AD=1.593P PS=12.6U PD=5.075U
Mpmos@0 net@6 C vdd vdd P L=0.35U W=1.4U AS=5.604P AD=1.593P PS=12.688U PD=5.075U
Mpmos@1 F net@6 net@10 vdd P L=0.35U W=1.4U AS=1.286P AD=1.286P PS=3.937U PD=3.937U
Mpmos@2 net@10 D F vdd P L=0.35U W=1.4U AS=1.286P AD=1.286P PS=3.937U PD=3.937U
Mpmos@3 vdd net@43 net@10 vdd P L=0.35U W=1.4U AS=1.286P AD=5.604P PS=3.937U PD=12.688U
Mpmos@4 net@10 A vdd vdd P L=0.35U W=1.4U AS=5.604P AD=1.286P PS=12.688U PD=3.937U
Mpmos@5 net@43 B vdd vdd P L=0.35U W=1.4U AS=5.604P AD=1.593P PS=12.688U PD=5.075U

* Spice Code nodes in cell cell 'hw2-layout{lay}'
VDD VDD 0 DC 3.3
VGND GND 0 DC 0
*
*For logic simulation:
VA A 0 PULSE(3.3 0 0 1n 1n 1000n 2000n)
VB B 0 PULSE(3.3 0 0 1n 1n 500n 1000n)
VC C 0 PULSE(3.3 0 0 1n 1n 250n 500n)
VD D 0 PULSE(3.3 0 0 1n 1n 125n 250n)
*
.TRAN 0 2000n
.include Z:\MOS_model.txt
.END
